US06093737
4-[3-(2-Oxo-2H-[1,2']bipyridinyl-4-ylmethyl)-3H-imidazol-4-ylmethyl]-benzonitrile hydrochloride salt was prepared in a manner substantially similar to the procedure described above for 4-[3-(2-oxo-1-phenyl-1,2-dihydropyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]benzonitrile, hydrochloride, but substituting 2-bromopyridine for the iodobenzene in Step 3.

reactant | 4-[3-(2-oxo-1-phenyl-1,2-dihydropyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]benzonitrile, hydrochloride | Cl.O=C1N(C=CC(=C1)CN1C=NC=C1CC1=CC=C(C#N)C=C1)C1=CC=CC=C1
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 4-[3-(2-Oxo-2H-[1,2']bipyridinyl-4-ylmethyl)-3H-imidazol-4-ylmethyl]-benzonitrile hydrochloride salt | Cl.O=C1N(C=CC(=C1)CN1C=NC=C1CC1=CC=C(C#N)C=C1)C1=NC=CC=C1 | InChI=1S/C22H17N5O.ClH/c23-13-18-6-4-17(5-7-18)11-20-14-24-16-26(20)15-19-8-10-27(22(28)12-19)21-3-1-2-9-25-21;/h1-10,12,14,16H,11,15H2;1H
